US06777421B2
To a solution of 0.4 M 9-BBN in hexane (72 mL, 28.8 mmol) was added 4-bromophenyl-1-butene (3.99 g, 18.9 mmol) at room temperature. The resulting mixture was stirred at room temperature for 20 h. The mixture was treated sequentially with 3.3 mL of 6N aqueous NaOH (19.8 mmol), THF (7 mL), and 30% H2O2 in H2O (7 mL), then refluxed for 2 h. The reaction mixture was then cooled to room temperature. The organic layer was washed with aqueous sodium sulfite (40 mL), H2O (20 mL), and brine (20 mL). The aqueous extracts were combined, saturated with solid K2CO3 and extracted with Et2O (3×50 mL). The combined organic extracts were dried over Na2 SO4, filtered and concentrated. The resulting crude product was purified by flash chromatography twice (33% EtOAc in hexane and 20% EtOAc in hexane) to yield 4-(o-bromophenyl)butanol).

reactant | 9-BBN | 0.4 M | B1C2CCCC1CCC2 | C8H15B
reactant | hexane | 28.8 mmol, 72 mL | CCCCCC | C6H14
reactant | 4-bromophenyl-1-butene | 18.9 mmol, 3.99 g | BrC1=CC=C(C=C1)C=CCC | C10H11Br
reactant | NaOH | 19.8 mmol, 6N, 3.3 mL | [OH-].[Na+]
reactant | H2O2 | OO | H2O2
solvent | H2O | 7 mL | O | H2O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 4-(o-bromophenyl)butanol | BrC1=C(C=CC=C1)CCCCO | C10H13BrO
